US06897227B2
A mixture of the 3,5-dimethylphenoxyacetic acid (prepared as described above, 9.3 g, 51.6 mmol) and SOCl2 (11.3 mL, 18.5 g, 156 mmol, 3.0 eq) in 10 mL of benzene was refluxed for 2 h. Then volatile materials were removed by vacuum distillation to give 3,5-dimethylphenoxyacetic acid chloride as a light brown oil. To an ice-bath cooled solution of 6-amino-n-caproic acid (13.5 g, 103 mmol, 2.0 eq) and NaOH (4.2 g, 105 mmol) in 100 mL of H2O and 130 mL of CH3CN were added drop-wise a solution of the acid chloride (prepared in previous step) in 100 mL of CH3CN and a solution of NaHCO3 (6.5 g, 77.0 mmol, 1.5 eq) in 80 mL of H2O. The mixture was stirred vigorously overnight. Then most of the CH3CN was removed under reduced pressure and the mixture was acidified to pH 2 at room temperature with conc-HCl. The resulting white precipitates were collected by filtration, washed with H2O, followed by hexane, and thereafter dried under high vacuum to yield Intermediate 15 (14.5 g, 95%) as a white solid.

reactant | 3,5-dimethylphenoxyacetic acid | 51.6 mmol, 9.3 g | CC=1C=C(OCC(=O)O)C=C(C1)C | C10H12O3
reactant | SOCl2 | 156 mmol, 11.3 mL, 18.5 g, 3.0 eq | O=S(Cl)Cl | Cl2OS
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 3,5-dimethylphenoxyacetic acid chloride | CC=1C=C(OCC(=O)Cl)C=C(C1)C | C10H11ClO2
